US04472433
Preparation of ethyl 2-(2-nitro-3-phenylthiophenyl)acetate
A mixture of ethyl 2-(2-nitro-3-chlorophenyl)acetate (8.4 g.), sodium benzenethiolate (4.6 g.), and dimethylformamide (50 ml.) was treated in a similar manner to the above to give yellow needles of the captioned compound (7.25 g.). mp 65° to 67° C.

reactant | ethyl 2-(2-nitro-3-chlorophenyl)acetate | 8.4 g | [N+](=O)([O-])C1=C(C=CC=C1Cl)CC(=O)OCC | C10H10ClNO4
reactant | sodium benzenethiolate | 4.6 g | C1(=CC=CC=C1)[S-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(2-nitro-3-phenylthiophenyl)acetate | [N+](=O)([O-])C1=C(C=CC=C1SC1=CC=CC=C1)CC(=O)OCC | C16H15NO4S
